US06083955
Concentrated sulfuric acid (0.1 ml) was added to a solution of 150 mg of N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-(4-carboxyphenyl)ethenesulfonamide in 10 ml of methanol followed by stirring overnight under a refluxing condition. The reaction mixture was concentrated in vacuo, 1N hydrochloric acid was added thereto and the mixture was extracted with ethyl acetate. The extract was washed with a saturated saline solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo and the resulting solid was recrystallized form ethyl acetate to give 102 mg of N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-(4-methoxycarbonylphenyl)ethenesulfon-amide.

reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-(4-carboxyphenyl)ethenesulfonamide | 150 mg | COC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=C(C=C1)C(=O)O)OC1=C(C=CC=C1)OC | C25H21N5O7S
reactant | methanol | 10 ml | CO | CH4O
product | N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-(4-methoxycarbonylphenyl)ethenesulfon-amide | 102 mg | COC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=C(C=C1)C(=O)OC)OC1=C(C=CC=C1)OC | C26H23N5O7S
